datasets/RMG-dataset.csv
rxn,Ea
[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[C:15]([H:16])([H:17])[H:18]>>[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:8])[H:9].[H:7][C:15]([H:16])([H:17])[H:18],27.196
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[C:14]([C:15]([C:16]([H:22])([H:23])[H:24])([S:17][H:25])[H:21])([H:18])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([H:11])([H:12])[H:13])[H:21])[H:7])([H:5])[H:6].[C:14]([C:15]([C:16]([H:22])([H:23])[H:24])[S:17][H:25])([H:18])([H:19])[H:20],44.3504
[C:0]([C:1]([N+:2](=[O:3])[O-:4])([H:8])[H:9])([H:5])([H:6])[H:7].[H:10]>>[C:0]([C:1]([N+:2](=[O:3])[O-:4])[H:9])([H:5])([H:6])[H:7].[H:8][H:10],11.828168
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8](=[C:9][C:10]([H:13])([H:14])[H:15])([H:11])[H:12]>>[C:0](#[C:1][C:2]=[C:3]([H:6])[H:7])[H:4].[H:5][C:9](=[C:8]([H:11])[H:12])[C:10]([H:13])([H:14])[H:15],9.2048
[C:0](=[C:1]([c:2]1[c:3]([H:16])[c:4]([H:17])[c:5]([H:18])[c:6]([H:19])[c:7]1[H:20])[H:15])([c:8]1[c:9]([H:21])[c:10]([H:22])[c:11]([H:23])[c:12]([H:24])[c:13]1[H:25])[H:14].[C:26](=[C:27]([C:28]([C:29]([H:35])([H:36])[H:37])[C:30](=[C:31]([H:39])[H:40])[H:38])[H:34])([H:32])[H:33]>>[C:0]([C:1]([c:2]1[c:3]([H:16])[c:4]([H:17])[c:5]([H:18])[c:6]([H:19])[c:7]1[H:20])[H:15])([c:8]1[c:9]([H:21])[c:10]([H:22])[c:11]([H:23])[c:12]([H:24])[c:13]1[H:25])([H:14])[C:28]([C:27](=[C:26]([H:32])[H:33])[H:34])([C:29]([H:35])([H:36])[H:37])[C:30](=[C:31]([H:39])[H:40])[H:38],74.6426
[C:0]([C:1]([O:2][Si:3]([O:4][H:14])([O:5][H:15])[O:6][C:7]([C:8]([H:18])([H:19])[H:20])([H:16])[H:17])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0](=[C:1]([H:12])[H:13])([H:9])[H:10].[O:2]([Si:3]([O:4][H:14])([O:5][H:15])[O:6][C:7]([C:8]([H:18])([H:19])[H:20])([H:16])[H:17])[H:11],286.821568
[C:0]([C:1]([C:2]([C:3]([C:4](=[C:5]([H:15])[H:16])[H:14])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:6])[H:7].[C:17](=[O:18])[H:19]>>[C-:17]#[O+:18].[C:0]([C:1]([C:2]([C:3]([C:4](=[C:5]([H:15])[H:16])[H:14])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:6])([H:7])[H:19],0.0
[H:3].[S:0]([H:1])[H:2]>>[H:1][H:3].[S:0][H:2],3.782336
[C:0]([C:1](=[C:2]([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[H:13])[H:12])([H:9])([H:10])[H:11].[H:19]>>[C:0]([C:1]([C:2]([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[H:13])([H:12])[H:19])([H:9])([H:10])[H:11],10.0834
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:15])[H:11].[C:21](=[C:22][C:23]([H:26])([H:27])[H:28])([H:24])[H:25]>>[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:15])[C:22](=[C:21]([H:24])[H:25])[C:23]([H:26])([H:27])[H:28])[H:11],10.5018
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[S:9]=[C:10]([S:11][H:13])[H:12]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[H:13])[H:4].[S:9]=[C:10]([S:11])[H:12],8.7864
[C:0](=[C:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[O:8][H:9]>>[C:0](#[C:1][C:2]([H:5])([H:6])[H:7])[H:4].[H:3][O:8][H:9],0.0
[C:0](#[C:1][C:2]#[C:3][C:4]#[C:5][H:7])[H:6].[C:8](#[C:9][C:10]([C:11]([H:14])([H:15])[H:16])[H:13])[H:12]>>[C:0](#[C:1][C:2](=[C:3][C:4]#[C:5][H:7])[C:10]([C:9]#[C:8][H:12])([C:11]([H:14])([H:15])[H:16])[H:13])[H:6],34.3088
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[C:17]([C:18]([C:19]([H:25])([H:26])[H:27])([C:20]([C:21]([H:30])([H:31])[H:32])([H:28])[H:29])[H:24])([H:22])[H:23]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])[H:9])([H:5])([H:6])[H:7].[H:8][C:17]([C:18]([C:19]([H:25])([H:26])[H:27])([C:20]([C:21]([H:30])([H:31])[H:32])([H:28])[H:29])[H:24])([H:22])[H:23],43.5136
[C:0]1([H:6])[C:1]([H:7])=[C:2]([H:8])[C:3]([H:9])([H:10])[C:4]([H:11])([H:12])[C:5]1([H:13])[H:14].[H:15]>>[C:0]1([H:6])=[C:5]([H:14])[C:4]([H:11])([H:12])[C:3]([H:9])([H:10])[C:2]([H:8])=[C:1]1[H:7].[H:13][H:15],0.0
[C:0](=[C:1]([C:2](=[O:3])[H:7])[H:6])([H:4])[H:5].[O:8][H:9]>>[C:0](=[C:1]([C:2]=[O:3])[H:6])([H:4])[H:5].[H:7][O:8][H:9],-4.025008
[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([C:4]([C:5]([O:6][O:7])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])[C:3]([C:4]([C:5]([O:6][O:7][H:11])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:8])([H:9])[H:10],57.9066
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]#[C:5][H:11])[H:7])[H:6].[S:12]=[C:13][S:14][H:15]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]#[C:5][H:11])[H:6].[H:7][C:13](=[S:12])[S:14][H:15],15.4808
[C:0]([C:1]([O:2][H:11])([C:3]([C:4]([H:13])([H:14])[H:15])([O:5][O:6])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:0]([C:1]([O:2][H:11])[C:3]([C:4]([H:13])([H:14])[H:15])([O:5][O:6][H:10])[H:12])([H:7])([H:8])[H:9],109.621
